US06660753B2
A mixture of 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole (25 mg, 0.095 mmol), potassium carbonate (53 mg, 0.38 mmol) and 2-iodo-1,1,1-trifluoroethane (28 μL, 0.28 mmol) in N,N-dimethylformamide (1 mL) was heated in a sealed vial at 150° C. for 5 minutes hour. The reaction was cooled, diluted with dichloromethane, washed with water (3×) and saturated brine, filtered and concentrated. Silica gel chromatography of the residue using hexanes/ethyl acetate/dichlrormethane (3.5:0.5:4) afforded 9 mg (27%) of 3-(2-pyridyl)-5-(3-cyano-5-(2,2,2-trifluoroethoxy)phenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3), δ (ppm): 8.87 (d, 1H), 8.27 (s, 1H), 8.24 (d, 1H), 8.08 (s,1H), 7.92 (t, 1H), 7.50 (m, 2H), 4.53 (q, 2H).

reactant | 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole | 0.095 mmol, 25 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)O)C#N | C14H8N4O2
reactant | potassium carbonate | 0.38 mmol, 53 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodo-1,1,1-trifluoroethane | 0.28 mmol, 28 μL | ICC(F)(F)F | C2H2F3I
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(2-pyridyl)-5-(3-cyano-5-(2,2,2-trifluoroethoxy)phenyl)-1,2,4-oxadiazole | 9 mg, 27% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)OCC(F)(F)F)C#N | C16H9F3N4O2
